US05064959
Preparation of methyl 3-(4,6-bis(trichloromethyl)-s-triazin-2-yl)cinnamate (method a1)
Methyl 3-cyanocinnamate (42 pw) is added to a mixture of trichloroacetonitrile (194.4 pw) and aluminum bromide (7.2 pw) in the absence of moisture and at about 25° C. Hydrogen chloride is then introduced over a period of 3 hours with stirring, while keeping the temperature constant. Stirring is discontinued, and the mixture is allowed to react further overnight. In this step, too, a constant temperature of 25° C. is maintained. The solidified mixture is dissolved in 800 pw of dichloromethane, washed with water, and the organic phase is dried over sodium sulfate. Evaporation of the solvent gives a white residue, which is recrystallized from methanol or benzene.

reactant | Methyl 3-cyanocinnamate | C(#N)C=1C=C(C=CC(=O)OC)C=CC1 | C11H9NO2
reactant | trichloroacetonitrile | ClC(C#N)(Cl)Cl | C2Cl3N
reactant | aluminum bromide | [Br-].[Al+3].[Br-].[Br-]
reactant | Hydrogen chloride | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 3-(4,6-bis(trichloromethyl)-s-triazin-2-yl)cinnamate | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C=1C=C(C=CC(=O)OC)C=CC1)(Cl)Cl | C15H9Cl6N3O2
